US07323475B2
a) 1-Ethylsulfanyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
52 mg of 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester, Example D-20c, was dissolved in 2 ml of ethanethiol and heated in a sealed tube at 70° C. for 24 h, and 100° C. for 48 h. The resultant solution was concentrated under vacuum and the residue (54 mg) was purified by chromatography on silica gel using a gradient of 0 to 20 percent ethyl acetate in hexanes to elute the product. 25 mg of product was obtained; MS (+): m/z 306.06 (M+1)

reactant | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 52 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | ethanethiol | 2 ml | C(C)S | C2H6S
product | 1-Ethylsulfanyl-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 25 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)SCC | C16H19NO3S
